US07319099B2
(b) 1-[4-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-piperazine hydrochloride
1 mmol of 4-[4-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester was stirred in 3 ml of 1,4-dioxane saturated with gaseous HCl. After 2 h at room temperature, the reaction mixture was evaporated to dryness to yield the tide compound as a colorless solid. MS (m/e): 245.1 (MH+, 100%)

reactant | 4-[4-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-piperazine-1-carboxylic acid tert-butyl ester | 1 mmol | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=CC=C(C=C1)C1=NOC(=N1)C | C18H24N4O3
reactant | HCl | Cl | ClH
solvent | 1,4-dioxane | 3 ml | O1CCOCC1 | C4H8O2
product | 1-[4-(5-Methyl-[1,2,4]oxadiazol-3-yl)-phenyl]-piperazine hydrochloride | Cl.CC1=NC(=NO1)C1=CC=C(C=C1)N1CCNCC1 | InChI=1S/C13H16N4O.ClH/c1-10-15-13(16-18-10)11-2-4-12(5-3-11)17-8-6-14-7-9-17;/h2-5,14H,6-9H2,1H3;1H
